US07547691B2
(E). Preparation of [4-(6-aminomethyl-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine
(2-{2-[3-(4-Methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-ylmethyl)-carbamic acid tert-butyl ester (1.36 g, 2.74 mmol) is dissolved in dichloromethane (20 mL) and TFA (3.2 mL) is added. After stirring for 20 hours, methanol is added and the mixture is passed through an SCX column. After eluting with methanol to remove the salts, 20% 2.0 M NH3/MeOH)/EtOAC is used to elute the product which is then passed through a 15 g silica gel column using the same solvent system. The title compound is obtained as a yellow solid (0.73 g, 68% yield). ES+(m/z) 397 [M+H].

reactant | (2-{2-[3-(4-Methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-ylmethyl)-carbamic acid tert-butyl ester | 2.74 mmol, 1.36 g | C(C)(C)(C)OC(NCC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCCN2CCN(CC2)C)C1)=O | C26H36N6O2S
reactant | TFA | 3.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methanol | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | [4-(6-aminomethyl-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine | NCC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCCN2CCN(CC2)C)C1 | C21H28N6S
